US06093732
N-(4-Chlorobenzyl)-6-(2-cyanoethyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-6-[(E)-2-cyanoethenyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide from Example No. 133 (0.13 g) and Et3N in 50 mL 3:1 CH2Cl2 :MeOH was added 10% Pd/C (0.040 g). The reaction was placed under hydrogen balloon atmosphere for 4 hours. The reaction was filtered over Celite, the filter cake rinsed thoroughly with methanol, and the filtrate concentrated under reduced pressure to give a yellow solid. The solid was recrystallized with CH2Cl2 /MeOH/hexanes to give the desired product as an off-white solid (0.084 g, 63%).

reactant | N-(4-chlorobenzyl)-6-[(E)-2-cyanoethenyl]-8-fluoro-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)\C=C\C#N)F)C=C1 | C20H13ClFN3O2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.040 g | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | N-(4-Chlorobenzyl)-6-(2-cyanoethyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide | 0.084 g, 63% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCC#N)F)C=C1 | C20H15ClFN3O2
